US04096250
A solution of 10 g. (0.08 mole) of diethylphosphinous chloride in 100 ml. of ether was added to a solution of p-methoxyphenyllithium [prepared from 23.4 g. (0.1 mole) of p-iodoanisole in 100 ml. of ether and 62.5 ml. of 1.6 M n-butyllithium in hexane] under a nitrogen atmosphere. After 40 minutes, the reaction mixture was filtered and the solvent removed at reduced pressure. Distillation of the residual oil gave (diethyl)(p-methoxyphenyl)phosphine as a colorless liquid, b.p. 85°-90° C. at 0.5 mm.

reactant | diethylphosphinous chloride | 0.08 mole | C(C)P(CC)Cl | C4H10ClP
reactant | p-methoxyphenyllithium | 0.1 mole, 1.6 M, 100 ml, 23.4 g | COC1=CC=C(C=C1)[Li]
reactant | p-iodoanisole | 0.1 mole | IC1=CC=C(C=C1)OC | C7H7IO
solvent | ether | CCOCC | C4H10O
product | (diethyl)(p-methoxyphenyl)phosphine | C(C)P(C1=CC=C(C=C1)OC)CC | C11H17OP
